US04948809
4-Bromobenzenesulphonic acid-4--(1-hydroxyethyl)-phenethylamide.
11.4 g. (29.8 mmole) 4-Bromobenzenesulphonic acid(4-acetylphenethylamide) are dissolved in a mixture of 40 ml. methanol and 100 ml. ethanol and 0.85 g. (22.4 mmole) sodium borohydride then added portionwise thereto at 0° C. Subsequently, the reaction mixture is stirred at ambient temperature for 2 hours and then evaporated in a vacuum. After the addition of dilute hydrochloric acid, the reaction mixture is shaken out with methylene chloride and the methylene chloride phase is dried with anhydrous sodium sulphate Thereafter, it is evaporated and the residue is recrystallised from toluene. Yield 10.4 g. (91% of theory): m.p. 125°-127° C.

reactant | 4-Bromobenzenesulphonic acid(4-acetylphenethylamide) | 29.8 mmole | C(C)(=O)C1=CC=C(CCNS(=O)(=O)C2=CC=C(C=C2)Br)C=C1 | C16H16BrNO3S
reactant | methanol | CO | CH4O
reactant | sodium borohydride | 22.4 mmole | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-Bromobenzenesulphonic acid-4--(1-hydroxyethyl)-phenethylamide | OC(C)C1=CC=C(CCNS(=O)(=O)C2=CC=C(C=C2)Br)C=C1 | C16H18BrNO3S
